US04816474
A solution of 4.0 g of N,N-dipropyl-5,6-dihydro-4H-thieno[2,3-b]thiopyran-5-amine in 20 ml of t-butyl methyl ether is slowly added while stirring to a mixture of 5.42 g of 2.4 M ethanolic hydrogen chloride in 45 ml of t-butyl methyl ether. The crystalline product is collected, washed with the solvent and dried to give N,N-dipropyl-5,6-dihydro-4H-thieno[2,3-b]thiopyran-5-amine hydrochloride, m.p. 163°-167°.

reactant | N,N-dipropyl-5,6-dihydro-4H-thieno[2,3-b]thiopyran-5-amine | 4.0 g | C(CC)N(C1CC2=C(SC1)SC=C2)CCC | C13H21NS2
reactant | hydrogen chloride | 2.4 M, 5.42 g | Cl | ClH
solvent | t-butyl methyl ether | 20 ml | COC(C)(C)C | C5H12O
solvent | t-butyl methyl ether | 45 ml | COC(C)(C)C | C5H12O
product | N,N-dipropyl-5,6-dihydro-4H-thieno[2,3-b]thiopyran-5-amine hydrochloride | Cl.C(CC)N(C1CC2=C(SC1)SC=C2)CCC | InChI=1S/C13H21NS2.ClH/c1-3-6-14(7-4-2)12-9-11-5-8-15-13(11)16-10-12;/h5,8,12H,3-4,6-7,9-10H2,1-2H3;1H
